US07470680B2
tert-butyl 4-(2,2-dimethoxyethylamino)piperidine-1-carboxylate.
tert-Butyl 4-oxopiperidine-1-carboxylate (10.56 g, 53.0 mmol) was dissolved in 1,2-dichloroethane (100 ml). 4 Å Molecular sieves were added to the mixture followed by aminoacetaldehyde dimethyl acetal (8.0 ml, 73.4 mmol). Mixture was heated to reflux and held with stirring for 2 hours. Mixture was cooled to room temperature. Sodium triacetoxyborohydride (12.05 g, 56.9 mmol) was added to the mixture. Reaction stirred at room temperature for 3 hours. Another 3.22 g of sodium triacetoxyborohydride was added to the mixture. Reaction stirred at room temperature for 17 hours. Mixture was filtered over celite. Solids were washed with 50 mL dichloromethane. Material was extracted from the filtrate 3 times with 1N hydrochloric acid and the organic phase was discarded. Aqueous phase was made basic with sodium carbonate. Material was extracted three times with dichloromethane and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as amber oil in 74% yield. MS (M+H)+=289.1.

reactant | tert-Butyl 4-oxopiperidine-1-carboxylate | 53.0 mmol, 10.56 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | aminoacetaldehyde dimethyl acetal | 73.4 mmol, 8.0 ml | COC(CN)OC | C4H11NO2
reactant | Sodium triacetoxyborohydride | 56.9 mmol, 12.05 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 3.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | tert-butyl 4-(2,2-dimethoxyethylamino)piperidine-1-carboxylate | 74% yield | COC(CNC1CCN(CC1)C(=O)OC(C)(C)C)OC | C14H28N2O4
